US06630492B1
To a solution of 65 mg (0.15 mmol) of mevinolin in 5 ml of ethanol are added 22 mg (1.0 mmol) lithium borohydride and the resulting mixture is stirred overnight at room temperature. The reaction is quenched with 0.1 N aqueous HCl. The phases are separated and the aqueous phase is extracted twice with ethyl acetate. The organic phases are combined, washed with brine and dried over sodium sulfate. The solvent is evaporated and the crude product purified by silica gel chromatography (ethyl acetate) to afford 2-methyl-butyric acid 3,7-dimethyl-8-(3,5,7-trihydroxy-heptyl)-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl ester as an oil.

reactant | mevinolin | 0.15 mmol, 65 mg | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C24H36O5
reactant | lithium borohydride | 1.0 mmol, 22 mg | [BH4-].[Li+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-methyl-butyric acid 3,7-dimethyl-8-(3,5,7-trihydroxy-heptyl)-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl ester | CC1CC(C2C(C(C=CC2=C1)C)CCC(CC(CCO)O)O)OC(C(CC)C)=O | C24H40O5
